US09315502B2
Intermediate A: 1-(4-Fluoro-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole
To a stirred solution of commercially available 1-(4-fluorophenyl)-1H-pyrazole [CAS No 81329-32-0] (2.27 g, 14.0 mmol) in THF (100 ml) was added drop wise at −78° C. under argon atmosphere n-butyl lithium (1.6N in hexane, 10.5 ml, 16.8 mmol. The reaction mixture was allowed to stir for 1 h at −78° C. Afterwards commercially available 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.84 g, 3.12 ml, 15.0 mmol) was added drop wise at −78° C., and the mixture was stirred for 1.5 h at −78° C. The mixture was allowed to reach room temperature within 1 h, and acetic acid (0.925 g, 881 μl, 15.4 mmol) was added. The mixture was filtered using a Celite pad, which was washed with ethyl acetate, and the filtrate was evaporated to dryness. The crude product (4.36 g, light brown solid) was purified by flash chromatography on silica gel (heptane/ethyl acetate, 10-50%) to yield the title compound as an off-white solid (2.04 g, 51%), MS (ISP) m/z=289.5 [(M+H)+], mp 133° C.

reactant | 1-(4-fluorophenyl)-1H-pyrazole | FC1=CC=C(C=C1)N1N=CC=C1 | C9H7FN2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 15.0 mmol, 3.12 ml, 2.84 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | acetic acid | 15.4 mmol, 881 μl, 0.925 g | C(C)(=O)O | C2H4O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(4-Fluoro-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 2.04 g, 51% | FC1=CC=C(C=C1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C15H18BFN2O2
